US05187156
Boc-D-Trp(CHO)-OH (2.99 g), TsOH.H-Phe-OBzl (3.85 g, and HOBT (1.22 g) were dissolved in a mixed solvent of methylene chloride (60 ml) and DMF (15 ml). To this solution was added WSC (1.53 g) under ice cooling, and the reaction mixture was stirred for 3 hours at the same temperature. The reaction mixture was concentrated and extracted with ethyl acetate. The organic layer was washed successively with diluted sodium hydrogencarbonate solution (twice), water, 0.5N hydrochloric acid, and saturated sodium chloride solution, and dried over magnesium sulfate. After concentration, the residue was crystallized from a mixture of ethyl acetate and diisopropyl ether (1:1), which was filtered, washed with diisopropyl ether, and dried to give Boc-D-Trp(CHO)-Phe-OBzl (4.95 g).

reactant | Boc-D-Trp(CHO)-OH | 2.99 g | N([C@H](CC1=CN(C2=CC=CC=C12)C=O)C(=O)O)C(=O)OC(C)(C)C | C17H20N2O5
reactant | TsOH | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | H-Phe-OBzl | N[C@@H](CC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C16H17NO2
reactant | HOBT | 1.22 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC | 1.53 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | Boc-D-Trp(CHO)-Phe-OBzl | 4.95 g | N([C@H](CC1=CN(C2=CC=CC=C12)C=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C33H35N3O6
